US08258130B2
A mixture of [2,2′]bipyrimidinyl-5-carboxylic acid (166 mg, 0.82 mmol), 5-fluoro-3-methyl-indol-1-yl-ammonium chloride (164 mg, 0.82 mmol) and DIPEA (106 mg, 0.82 mmol) in DMF (5 mL) is stirred at rt for 5 min. 4-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-morpholin-4-ium chloride (226 mg, 0.82 mmol) is added. The reaction mixture is heated to 50° C. for 1.5 h and then concentrated in vacuo. The residue is taken up in DMSO-d6 and then purified via reverse phase C18 HPLC chromatography eluting with water and acetonitrile containing 0.1% TFA buffer to afford [2,2]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide (56%). MS: 349 (M+H); 1H NMR (300 MHz, CDCl3): δ=2.27 (s, 3H), 7.05 (dt, 1H), 7.33 (s, 1H), 7.36 (dd, 1H), 7.42-7.46 (m, 1H), 7.72 (t, 1H), 9.07 (d, 2H), 9.51 (s, 2H), 12.17 (s, 1H).

reactant | [2,2′]bipyrimidinyl-5-carboxylic acid | 0.82 mmol, 166 mg | N1=C(N=CC(=C1)C(=O)O)C1=NC=CC=N1 | C9H6N4O2
reactant | 5-fluoro-3-methyl-indol-1-yl-ammonium chloride | 0.82 mmol, 164 mg | [Cl-].FC=1C=C2C(=CN(C2=CC1)[NH3+])C
reactant | DIPEA | 0.82 mmol, 106 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-morpholin-4-ium chloride | 0.82 mmol, 226 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [2,2]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide | 56% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=N1)C | C18H13FN6O
